US05110925
4,5-Dihydro-6-(4-((2-methyl-3-oxo-1-cyclopentenyl)-amino)phenyl)-3(2H)-pyridazinone (Compound No. 4)
3.4 g of 4,5-dihydro-6-(4-aminophenyl)-3(2H)-pyridazinone and 2.0 of 2-methylcyclopentane-1,3-dione were suspended in 30 ml of toluene, to which a catalytic amount of p-toluene sulfonate-hydrate was add while the resulting suspension was heated to reflux with stirring for 8 hours, with removal of water as an azcotropic mexture. After cooled, deposited crude crystal was collected by filtrating, and purified by silica gel column chromatography (eluting solvent: chloroform:methanol=10:1), 4.7 g of the title compound was obtained. m.p. 284°-285° C.

reactant | 4,5-dihydro-6-(4-aminophenyl)-3(2H)-pyridazinone | 3.4 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | 2-methylcyclopentane-1,3-dione | CC1C(CCC1=O)=O | C6H8O2
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Dihydro-6-(4-((2-methyl-3-oxo-1-cyclopentenyl)-amino)phenyl)-3(2H)-pyridazinone | 4.7 g | CC1=C(CCC1=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C16H17N3O2
